pc orchestrated
.model NNR NMOS (LEVEL=1 VTO=0.2 KP=120u LAMBDA=0.02 GAMMA=0 PHI=0.7)
.model PNR PMOS (LEVEL=1 VTO=-0.2 KP=40u LAMBDA=0.02 GAMMA=0 PHI=0.7)
.subckt gsyn inp inn wp wn outp outn vdd vbn
Mtail nt vbn 0 0 NNR W=400u L=100u
M5 na wp nt 0 NNR W=200u L=100u
M6 nb wn nt 0 NNR W=200u L=100u
M1 outp inp na 0 NNR W=200u L=100u
M2 outn inn na 0 NNR W=200u L=100u
M3 outn inp nb 0 NNR W=200u L=100u
M4 outp inn nb 0 NNR W=200u L=100u
.ends
.subckt cmld p n vdd
Rcs1 p cmx 300k
Rcs2 n cmx 300k
MLp p cmx vdd vdd PNR W=1000u L=100u
MLn n cmx vdd vdd PNR W=1000u L=100u
.ends
.subckt dneuron up un ap an vdd vbn
M1 an up tn 0 NNR W=200u L=100u
M2 ap un tn 0 NNR W=200u L=100u
Mt tn vbn 0 0 NNR W=200u L=100u
Xcm ap an vdd cmld
.ends
.subckt esub xp xn mp mn ep en vdd vbn
Mt nt vbn 0 0 NNR W=400u L=100u
M1x ep xn nt 0 NNR W=200u L=100u
M2x en xp nt 0 NNR W=200u L=100u
M1m ep mp nt 0 NNR W=200u L=100u
M2m en mn nt 0 NNR W=200u L=100u
RLp vdd ep 50k
RLn vdd en 50k
.ends
Vdd vdd 0 1.0
Vbsyn vbsyn 0 0.45
Vbbk vbbk 0 0.25
Vbneu vbneu 0 0.35
Vgm gm 0 0.6
Vwcm wcm 0 0.5
Vref vref 0 0.5
Vbg vbg 0 0.35
Vxp0 a_xp0 0 0.5
Vxn0 a_xn0 0 0.5
Vxp1 a_xp1 0 0.5
Vxn1 a_xn1 0 0.5
Vwp_ih_0_0 wp_ih_0_0 0 0.5954580898930484
Vwn_ih_0_0 wn_ih_0_0 0 0.4045419101069517
Vwp_ih_1_0 wp_ih_1_0 0 0.4295912100616285
Vwn_ih_1_0 wn_ih_1_0 0 0.5704087899383715
Vwp_ho_0_0 wp_ho_0_0 0 0.5538999286314805
Vwn_ho_0_0 wn_ho_0_0 0 0.4461000713685195
Vwp_ho_0_1 wp_ho_0_1 0 0.6959914899270107
Vwn_ho_0_1 wn_ho_0_1 0 0.30400851007298935
Vwp_ho_0_2 wp_ho_0_2 0 0.5198298846318394
Vwn_ho_0_2 wn_ho_0_2 0 0.48017011536816057
Vwp_ho_0_3 wp_ho_0_3 0 0.4815705084499389
Vwn_ho_0_3 wn_ho_0_3 0 0.5184294915500611
Vwp_ih_0_1 wp_ih_0_1 0 0.30482202407707343
Vwn_ih_0_1 wn_ih_0_1 0 0.6951779759229266
Vwp_ih_1_1 wp_ih_1_1 0 0.7310679990115168
Vwn_ih_1_1 wn_ih_1_1 0 0.3
Vwp_ho_1_0 wp_ho_1_0 0 0.8419345952871129
Vwn_ho_1_0 wn_ho_1_0 0 0.3
Vwp_ho_1_1 wp_ho_1_1 0 0.6472449115040477
Vwn_ho_1_1 wn_ho_1_1 0 0.35275508849595233
Vwp_ho_1_2 wp_ho_1_2 0 0.44257671066671345
Vwn_ho_1_2 wn_ho_1_2 0 0.5574232893332866
Vwp_ho_1_3 wp_ho_1_3 0 0.3
Vwn_ho_1_3 wn_ho_1_3 0 0.708876162820099
Vwp_ih_0_2 wp_ih_0_2 0 0.3307357811272078
Vwn_ih_0_2 wn_ih_0_2 0 0.6692642188727922
Vwp_ih_1_2 wp_ih_1_2 0 0.4371961343648113
Vwn_ih_1_2 wn_ih_1_2 0 0.5628038656351887
Vwp_ho_2_0 wp_ho_2_0 0 0.7678611150557068
Vwn_ho_2_0 wn_ho_2_0 0 0.3
Vwp_ho_2_1 wp_ho_2_1 0 0.5452657943392272
Vwn_ho_2_1 wn_ho_2_1 0 0.4547342056607729
Vwp_ho_2_2 wp_ho_2_2 0 0.5037809093178637
Vwn_ho_2_2 wn_ho_2_2 0 0.4962190906821363
Vwp_ho_2_3 wp_ho_2_3 0 0.6051919632081703
Vwn_ho_2_3 wn_ho_2_3 0 0.3948080367918297
Vwp_ih_0_3 wp_ih_0_3 0 0.45527222008511653
Vwn_ih_0_3 wn_ih_0_3 0 0.5447277799148834
Vwp_ih_1_3 wp_ih_1_3 0 0.5099773272773241
Vwn_ih_1_3 wn_ih_1_3 0 0.49002267272267586
Vwp_ho_3_0 wp_ho_3_0 0 0.4080059259069471
Vwn_ho_3_0 wn_ho_3_0 0 0.5919940740930529
Vwp_ho_3_1 wp_ho_3_1 0 0.5249378544771277
Vwn_ho_3_1 wn_ho_3_1 0 0.47506214552287235
Vwp_ho_3_2 wp_ho_3_2 0 0.5993612582583945
Vwn_ho_3_2 wn_ho_3_2 0 0.4006387417416055
Vwp_ho_3_3 wp_ho_3_3 0 0.6154023904506065
Vwn_ho_3_3 wn_ho_3_3 0 0.3845976095493935
Vwp_ih_0_4 wp_ih_0_4 0 0.4556593757715262
Vwn_ih_0_4 wn_ih_0_4 0 0.5443406242284738
Vwp_ih_1_4 wp_ih_1_4 0 0.49028419057194683
Vwn_ih_1_4 wn_ih_1_4 0 0.5097158094280532
Vwp_ho_4_0 wp_ho_4_0 0 0.6108330843533947
Vwn_ho_4_0 wn_ho_4_0 0 0.38916691564660527
Vwp_ho_4_1 wp_ho_4_1 0 0.35316757065783033
Vwn_ho_4_1 wn_ho_4_1 0 0.6468324293421697
Vwp_ho_4_2 wp_ho_4_2 0 0.5837189280984751
Vwn_ho_4_2 wn_ho_4_2 0 0.41628107190152486
Vwp_ho_4_3 wp_ho_4_3 0 0.44686713525836214
Vwn_ho_4_3 wn_ho_4_3 0 0.5531328647416379
Vwp_ih_0_5 wp_ih_0_5 0 0.5068993494891092
Vwn_ih_0_5 wn_ih_0_5 0 0.4931006505108908
Vwp_ih_1_5 wp_ih_1_5 0 0.4895988285480293
Vwn_ih_1_5 wn_ih_1_5 0 0.5104011714519707
Vwp_ho_5_0 wp_ho_5_0 0 0.5722351078476282
Vwn_ho_5_0 wn_ho_5_0 0 0.42776489215237185
Vwp_ho_5_1 wp_ho_5_1 0 0.5350475052924262
Vwn_ho_5_1 wn_ho_5_1 0 0.4649524947075738
Vwp_ho_5_2 wp_ho_5_2 0 0.35652984169955093
Vwn_ho_5_2 wn_ho_5_2 0 0.6434701583004491
Vwp_ho_5_3 wp_ho_5_3 0 0.334429444891048
Vwn_ho_5_3 wn_ho_5_3 0 0.665570555108952
Vwp_ih_0_6 wp_ih_0_6 0 0.511192860883189
Vwn_ih_0_6 wn_ih_0_6 0 0.488807139116811
Vwp_ih_1_6 wp_ih_1_6 0 0.3
Vwn_ih_1_6 wn_ih_1_6 0 0.7854710825379632
Vwp_ho_6_0 wp_ho_6_0 0 0.5086720953797985
Vwn_ho_6_0 wn_ho_6_0 0 0.4913279046202015
Vwp_ho_6_1 wp_ho_6_1 0 0.37553962880650127
Vwn_ho_6_1 wn_ho_6_1 0 0.6244603711934987
Vwp_ho_6_2 wp_ho_6_2 0 0.6230818463295135
Vwn_ho_6_2 wn_ho_6_2 0 0.37691815367048653
Vwp_ho_6_3 wp_ho_6_3 0 0.42239488762156685
Vwn_ho_6_3 wn_ho_6_3 0 0.5776051123784331
Vwp_ih_0_7 wp_ih_0_7 0 0.5529277637321076
Vwn_ih_0_7 wn_ih_0_7 0 0.4470722362678924
Vwp_ih_1_7 wp_ih_1_7 0 0.3314651962422756
Vwn_ih_1_7 wn_ih_1_7 0 0.6685348037577243
Vwp_ho_7_0 wp_ho_7_0 0 0.5183974757746581
Vwn_ho_7_0 wn_ho_7_0 0 0.4816025242253419
Vwp_ho_7_1 wp_ho_7_1 0 0.37711526701810905
Vwn_ho_7_1 wn_ho_7_1 0 0.622884732981891
Vwp_ho_7_2 wp_ho_7_2 0 0.474331047022987
Vwn_ho_7_2 wn_ho_7_2 0 0.525668952977013
Vwp_ho_7_3 wp_ho_7_3 0 0.6137137195637451
Vwn_ho_7_3 wn_ho_7_3 0 0.3862862804362549
Vwp_ih_0_8 wp_ih_0_8 0 0.3
Vwn_ih_0_8 wn_ih_0_8 0 0.7599974613474874
Vwp_ih_1_8 wp_ih_1_8 0 0.6657617487789448
Vwn_ih_1_8 wn_ih_1_8 0 0.3342382512210552
Vwp_ho_8_0 wp_ho_8_0 0 0.5585342134954776
Vwn_ho_8_0 wn_ho_8_0 0 0.44146578650452234
Vwp_ho_8_1 wp_ho_8_1 0 0.5780610712962861
Vwn_ho_8_1 wn_ho_8_1 0 0.42193892870371386
Vwp_ho_8_2 wp_ho_8_2 0 0.5978316465204653
Vwn_ho_8_2 wn_ho_8_2 0 0.4021683534795347
Vwp_ho_8_3 wp_ho_8_3 0 0.5750624928058129
Vwn_ho_8_3 wn_ho_8_3 0 0.4249375071941871
Vwp_ih_0_9 wp_ih_0_9 0 0.34573816649610734
Vwn_ih_0_9 wn_ih_0_9 0 0.6542618335038927
Vwp_ih_1_9 wp_ih_1_9 0 0.5215842927145051
Vwn_ih_1_9 wn_ih_1_9 0 0.47841570728549493
Vwp_ho_9_0 wp_ho_9_0 0 0.6124830172795519
Vwn_ho_9_0 wn_ho_9_0 0 0.3875169827204481
Vwp_ho_9_1 wp_ho_9_1 0 0.48793073797090947
Vwn_ho_9_1 wn_ho_9_1 0 0.5120692620290905
Vwp_ho_9_2 wp_ho_9_2 0 0.4163014086307326
Vwn_ho_9_2 wn_ho_9_2 0 0.5836985913692674
Vwp_ho_9_3 wp_ho_9_3 0 0.463957572689747
Vwn_ho_9_3 wn_ho_9_3 0 0.536042427310253
Vwp_ih_0_10 wp_ih_0_10 0 0.4072926215522146
Vwn_ih_0_10 wn_ih_0_10 0 0.5927073784477854
Vwp_ih_1_10 wp_ih_1_10 0 0.41858405409554633
Vwn_ih_1_10 wn_ih_1_10 0 0.5814159459044537
Vwp_ho_10_0 wp_ho_10_0 0 0.5262523833981961
Vwn_ho_10_0 wn_ho_10_0 0 0.47374761660180387
Vwp_ho_10_1 wp_ho_10_1 0 0.5566651395235243
Vwn_ho_10_1 wn_ho_10_1 0 0.4433348604764758
Vwp_ho_10_2 wp_ho_10_2 0 0.576542634518789
Vwn_ho_10_2 wn_ho_10_2 0 0.423457365481211
Vwp_ho_10_3 wp_ho_10_3 0 0.6076729736168701
Vwn_ho_10_3 wn_ho_10_3 0 0.39232702638312994
Vwp_ih_0_11 wp_ih_0_11 0 0.558038572229859
Vwn_ih_0_11 wn_ih_0_11 0 0.44196142777014097
Vwp_ih_1_11 wp_ih_1_11 0 0.37421300489701903
Vwn_ih_1_11 wn_ih_1_11 0 0.625786995102981
Vwp_ho_11_0 wp_ho_11_0 0 0.5407752457471721
Vwn_ho_11_0 wn_ho_11_0 0 0.45922475425282794
Vwp_ho_11_1 wp_ho_11_1 0 0.42476442591464014
Vwn_ho_11_1 wn_ho_11_1 0 0.5752355740853599
Vwp_ho_11_2 wp_ho_11_2 0 0.40440897406085574
Vwn_ho_11_2 wn_ho_11_2 0 0.5955910259391443
Vwp_ho_11_3 wp_ho_11_3 0 0.37502230924009766
Vwn_ho_11_3 wn_ho_11_3 0 0.6249776907599023
Vwp_ih_0_12 wp_ih_0_12 0 0.5447209130497979
Vwn_ih_0_12 wn_ih_0_12 0 0.45527908695020214
Vwp_ih_1_12 wp_ih_1_12 0 0.5456830971491611
Vwn_ih_1_12 wn_ih_1_12 0 0.4543169028508389
Vwp_ho_12_0 wp_ho_12_0 0 0.6670568376971169
Vwn_ho_12_0 wn_ho_12_0 0 0.33294316230288307
Vwp_ho_12_1 wp_ho_12_1 0 0.6441444808971395
Vwn_ho_12_1 wn_ho_12_1 0 0.35585551910286045
Vwp_ho_12_2 wp_ho_12_2 0 0.5155228197991082
Vwn_ho_12_2 wn_ho_12_2 0 0.4844771802008918
Vwp_ho_12_3 wp_ho_12_3 0 0.42648364026908103
Vwn_ho_12_3 wn_ho_12_3 0 0.573516359730919
Vwp_ih_0_13 wp_ih_0_13 0 0.6397337496723376
Vwn_ih_0_13 wn_ih_0_13 0 0.36026625032766235
Vwp_ih_1_13 wp_ih_1_13 0 0.45965441354035386
Vwn_ih_1_13 wn_ih_1_13 0 0.5403455864596461
Vwp_ho_13_0 wp_ho_13_0 0 0.5381264292112843
Vwn_ho_13_0 wn_ho_13_0 0 0.46187357078871577
Vwp_ho_13_1 wp_ho_13_1 0 0.5172526616067481
Vwn_ho_13_1 wn_ho_13_1 0 0.48274733839325185
Vwp_ho_13_2 wp_ho_13_2 0 0.46423642319364206
Vwn_ho_13_2 wn_ho_13_2 0 0.535763576806358
Vwp_ho_13_3 wp_ho_13_3 0 0.5569528696020187
Vwn_ho_13_3 wn_ho_13_3 0 0.44304713039798127
Vwp_ih_0_14 wp_ih_0_14 0 0.6255898704037053
Vwn_ih_0_14 wn_ih_0_14 0 0.3744101295962947
Vwp_ih_1_14 wp_ih_1_14 0 0.7064833648090478
Vwn_ih_1_14 wn_ih_1_14 0 0.3
Vwp_ho_14_0 wp_ho_14_0 0 0.5654026978055697
Vwn_ho_14_0 wn_ho_14_0 0 0.4345973021944302
Vwp_ho_14_1 wp_ho_14_1 0 0.6425273992440342
Vwn_ho_14_1 wn_ho_14_1 0 0.35747260075596576
Vwp_ho_14_2 wp_ho_14_2 0 0.46573129197687096
Vwn_ho_14_2 wn_ho_14_2 0 0.534268708023129
Vwp_ho_14_3 wp_ho_14_3 0 0.488490400435465
Vwn_ho_14_3 wn_ho_14_3 0 0.511509599564535
Vwp_ih_0_15 wp_ih_0_15 0 0.6904018735304558
Vwn_ih_0_15 wn_ih_0_15 0 0.30959812646954415
Vwp_ih_1_15 wp_ih_1_15 0 0.5703292348149673
Vwn_ih_1_15 wn_ih_1_15 0 0.4296707651850326
Vwp_ho_15_0 wp_ho_15_0 0 0.6188276115895321
Vwn_ho_15_0 wn_ho_15_0 0 0.38117238841046786
Vwp_ho_15_1 wp_ho_15_1 0 0.5808128588218191
Vwn_ho_15_1 wn_ho_15_1 0 0.4191871411781809
Vwp_ho_15_2 wp_ho_15_2 0 0.4320095307690912
Vwn_ho_15_2 wn_ho_15_2 0 0.5679904692309088
Vwp_ho_15_3 wp_ho_15_3 0 0.42929291610137554
Vwn_ho_15_3 wn_ho_15_3 0 0.5707070838986245
Xcm_mh0 mhp0 mhn0 vdd cmld
Rnd_mh0 mhp0 mhn0 20k
Xcm_xh0 xhp0 xhn0 vdd cmld
Rnd_xh0 xhp0 xhn0 20k
X_ihm_0_0 a_xp0 a_xn0 wp_ih_0_0 wn_ih_0_0 mhp0 mhn0 vdd vbsyn gsyn
X_ihx_0_0 a_xp0 a_xn0 wp_ih_0_0 wn_ih_0_0 xhp0 xhn0 vdd vbsyn gsyn
X_ihm_1_0 a_xp1 a_xn1 wp_ih_1_0 wn_ih_1_0 mhp0 mhn0 vdd vbsyn gsyn
X_ihx_1_0 a_xp1 a_xn1 wp_ih_1_0 wn_ih_1_0 xhp0 xhn0 vdd vbsyn gsyn
Xn0 xhp0 xhn0 ahp0 ahn0 vdd vbneu dneuron
Xeh0 xhp0 xhn0 mhp0 mhn0 ehp0 ehn0 vdd gm esub
Xcm_mh1 mhp1 mhn1 vdd cmld
Rnd_mh1 mhp1 mhn1 20k
Xcm_xh1 xhp1 xhn1 vdd cmld
Rnd_xh1 xhp1 xhn1 20k
X_ihm_0_1 a_xp0 a_xn0 wp_ih_0_1 wn_ih_0_1 mhp1 mhn1 vdd vbsyn gsyn
X_ihx_0_1 a_xp0 a_xn0 wp_ih_0_1 wn_ih_0_1 xhp1 xhn1 vdd vbsyn gsyn
X_ihm_1_1 a_xp1 a_xn1 wp_ih_1_1 wn_ih_1_1 mhp1 mhn1 vdd vbsyn gsyn
X_ihx_1_1 a_xp1 a_xn1 wp_ih_1_1 wn_ih_1_1 xhp1 xhn1 vdd vbsyn gsyn
Xn1 xhp1 xhn1 ahp1 ahn1 vdd vbneu dneuron
Xeh1 xhp1 xhn1 mhp1 mhn1 ehp1 ehn1 vdd gm esub
Xcm_mh2 mhp2 mhn2 vdd cmld
Rnd_mh2 mhp2 mhn2 20k
Xcm_xh2 xhp2 xhn2 vdd cmld
Rnd_xh2 xhp2 xhn2 20k
X_ihm_0_2 a_xp0 a_xn0 wp_ih_0_2 wn_ih_0_2 mhp2 mhn2 vdd vbsyn gsyn
X_ihx_0_2 a_xp0 a_xn0 wp_ih_0_2 wn_ih_0_2 xhp2 xhn2 vdd vbsyn gsyn
X_ihm_1_2 a_xp1 a_xn1 wp_ih_1_2 wn_ih_1_2 mhp2 mhn2 vdd vbsyn gsyn
X_ihx_1_2 a_xp1 a_xn1 wp_ih_1_2 wn_ih_1_2 xhp2 xhn2 vdd vbsyn gsyn
Xn2 xhp2 xhn2 ahp2 ahn2 vdd vbneu dneuron
Xeh2 xhp2 xhn2 mhp2 mhn2 ehp2 ehn2 vdd gm esub
Xcm_mh3 mhp3 mhn3 vdd cmld
Rnd_mh3 mhp3 mhn3 20k
Xcm_xh3 xhp3 xhn3 vdd cmld
Rnd_xh3 xhp3 xhn3 20k
X_ihm_0_3 a_xp0 a_xn0 wp_ih_0_3 wn_ih_0_3 mhp3 mhn3 vdd vbsyn gsyn
X_ihx_0_3 a_xp0 a_xn0 wp_ih_0_3 wn_ih_0_3 xhp3 xhn3 vdd vbsyn gsyn
X_ihm_1_3 a_xp1 a_xn1 wp_ih_1_3 wn_ih_1_3 mhp3 mhn3 vdd vbsyn gsyn
X_ihx_1_3 a_xp1 a_xn1 wp_ih_1_3 wn_ih_1_3 xhp3 xhn3 vdd vbsyn gsyn
Xn3 xhp3 xhn3 ahp3 ahn3 vdd vbneu dneuron
Xeh3 xhp3 xhn3 mhp3 mhn3 ehp3 ehn3 vdd gm esub
Xcm_mh4 mhp4 mhn4 vdd cmld
Rnd_mh4 mhp4 mhn4 20k
Xcm_xh4 xhp4 xhn4 vdd cmld
Rnd_xh4 xhp4 xhn4 20k
X_ihm_0_4 a_xp0 a_xn0 wp_ih_0_4 wn_ih_0_4 mhp4 mhn4 vdd vbsyn gsyn
X_ihx_0_4 a_xp0 a_xn0 wp_ih_0_4 wn_ih_0_4 xhp4 xhn4 vdd vbsyn gsyn
X_ihm_1_4 a_xp1 a_xn1 wp_ih_1_4 wn_ih_1_4 mhp4 mhn4 vdd vbsyn gsyn
X_ihx_1_4 a_xp1 a_xn1 wp_ih_1_4 wn_ih_1_4 xhp4 xhn4 vdd vbsyn gsyn
Xn4 xhp4 xhn4 ahp4 ahn4 vdd vbneu dneuron
Xeh4 xhp4 xhn4 mhp4 mhn4 ehp4 ehn4 vdd gm esub
Xcm_mh5 mhp5 mhn5 vdd cmld
Rnd_mh5 mhp5 mhn5 20k
Xcm_xh5 xhp5 xhn5 vdd cmld
Rnd_xh5 xhp5 xhn5 20k
X_ihm_0_5 a_xp0 a_xn0 wp_ih_0_5 wn_ih_0_5 mhp5 mhn5 vdd vbsyn gsyn
X_ihx_0_5 a_xp0 a_xn0 wp_ih_0_5 wn_ih_0_5 xhp5 xhn5 vdd vbsyn gsyn
X_ihm_1_5 a_xp1 a_xn1 wp_ih_1_5 wn_ih_1_5 mhp5 mhn5 vdd vbsyn gsyn
X_ihx_1_5 a_xp1 a_xn1 wp_ih_1_5 wn_ih_1_5 xhp5 xhn5 vdd vbsyn gsyn
Xn5 xhp5 xhn5 ahp5 ahn5 vdd vbneu dneuron
Xeh5 xhp5 xhn5 mhp5 mhn5 ehp5 ehn5 vdd gm esub
Xcm_mh6 mhp6 mhn6 vdd cmld
Rnd_mh6 mhp6 mhn6 20k
Xcm_xh6 xhp6 xhn6 vdd cmld
Rnd_xh6 xhp6 xhn6 20k
X_ihm_0_6 a_xp0 a_xn0 wp_ih_0_6 wn_ih_0_6 mhp6 mhn6 vdd vbsyn gsyn
X_ihx_0_6 a_xp0 a_xn0 wp_ih_0_6 wn_ih_0_6 xhp6 xhn6 vdd vbsyn gsyn
X_ihm_1_6 a_xp1 a_xn1 wp_ih_1_6 wn_ih_1_6 mhp6 mhn6 vdd vbsyn gsyn
X_ihx_1_6 a_xp1 a_xn1 wp_ih_1_6 wn_ih_1_6 xhp6 xhn6 vdd vbsyn gsyn
Xn6 xhp6 xhn6 ahp6 ahn6 vdd vbneu dneuron
Xeh6 xhp6 xhn6 mhp6 mhn6 ehp6 ehn6 vdd gm esub
Xcm_mh7 mhp7 mhn7 vdd cmld
Rnd_mh7 mhp7 mhn7 20k
Xcm_xh7 xhp7 xhn7 vdd cmld
Rnd_xh7 xhp7 xhn7 20k
X_ihm_0_7 a_xp0 a_xn0 wp_ih_0_7 wn_ih_0_7 mhp7 mhn7 vdd vbsyn gsyn
X_ihx_0_7 a_xp0 a_xn0 wp_ih_0_7 wn_ih_0_7 xhp7 xhn7 vdd vbsyn gsyn
X_ihm_1_7 a_xp1 a_xn1 wp_ih_1_7 wn_ih_1_7 mhp7 mhn7 vdd vbsyn gsyn
X_ihx_1_7 a_xp1 a_xn1 wp_ih_1_7 wn_ih_1_7 xhp7 xhn7 vdd vbsyn gsyn
Xn7 xhp7 xhn7 ahp7 ahn7 vdd vbneu dneuron
Xeh7 xhp7 xhn7 mhp7 mhn7 ehp7 ehn7 vdd gm esub
Xcm_mh8 mhp8 mhn8 vdd cmld
Rnd_mh8 mhp8 mhn8 20k
Xcm_xh8 xhp8 xhn8 vdd cmld
Rnd_xh8 xhp8 xhn8 20k
X_ihm_0_8 a_xp0 a_xn0 wp_ih_0_8 wn_ih_0_8 mhp8 mhn8 vdd vbsyn gsyn
X_ihx_0_8 a_xp0 a_xn0 wp_ih_0_8 wn_ih_0_8 xhp8 xhn8 vdd vbsyn gsyn
X_ihm_1_8 a_xp1 a_xn1 wp_ih_1_8 wn_ih_1_8 mhp8 mhn8 vdd vbsyn gsyn
X_ihx_1_8 a_xp1 a_xn1 wp_ih_1_8 wn_ih_1_8 xhp8 xhn8 vdd vbsyn gsyn
Xn8 xhp8 xhn8 ahp8 ahn8 vdd vbneu dneuron
Xeh8 xhp8 xhn8 mhp8 mhn8 ehp8 ehn8 vdd gm esub
Xcm_mh9 mhp9 mhn9 vdd cmld
Rnd_mh9 mhp9 mhn9 20k
Xcm_xh9 xhp9 xhn9 vdd cmld
Rnd_xh9 xhp9 xhn9 20k
X_ihm_0_9 a_xp0 a_xn0 wp_ih_0_9 wn_ih_0_9 mhp9 mhn9 vdd vbsyn gsyn
X_ihx_0_9 a_xp0 a_xn0 wp_ih_0_9 wn_ih_0_9 xhp9 xhn9 vdd vbsyn gsyn
X_ihm_1_9 a_xp1 a_xn1 wp_ih_1_9 wn_ih_1_9 mhp9 mhn9 vdd vbsyn gsyn
X_ihx_1_9 a_xp1 a_xn1 wp_ih_1_9 wn_ih_1_9 xhp9 xhn9 vdd vbsyn gsyn
Xn9 xhp9 xhn9 ahp9 ahn9 vdd vbneu dneuron
Xeh9 xhp9 xhn9 mhp9 mhn9 ehp9 ehn9 vdd gm esub
Xcm_mh10 mhp10 mhn10 vdd cmld
Rnd_mh10 mhp10 mhn10 20k
Xcm_xh10 xhp10 xhn10 vdd cmld
Rnd_xh10 xhp10 xhn10 20k
X_ihm_0_10 a_xp0 a_xn0 wp_ih_0_10 wn_ih_0_10 mhp10 mhn10 vdd vbsyn gsyn
X_ihx_0_10 a_xp0 a_xn0 wp_ih_0_10 wn_ih_0_10 xhp10 xhn10 vdd vbsyn gsyn
X_ihm_1_10 a_xp1 a_xn1 wp_ih_1_10 wn_ih_1_10 mhp10 mhn10 vdd vbsyn gsyn
X_ihx_1_10 a_xp1 a_xn1 wp_ih_1_10 wn_ih_1_10 xhp10 xhn10 vdd vbsyn gsyn
Xn10 xhp10 xhn10 ahp10 ahn10 vdd vbneu dneuron
Xeh10 xhp10 xhn10 mhp10 mhn10 ehp10 ehn10 vdd gm esub
Xcm_mh11 mhp11 mhn11 vdd cmld
Rnd_mh11 mhp11 mhn11 20k
Xcm_xh11 xhp11 xhn11 vdd cmld
Rnd_xh11 xhp11 xhn11 20k
X_ihm_0_11 a_xp0 a_xn0 wp_ih_0_11 wn_ih_0_11 mhp11 mhn11 vdd vbsyn gsyn
X_ihx_0_11 a_xp0 a_xn0 wp_ih_0_11 wn_ih_0_11 xhp11 xhn11 vdd vbsyn gsyn
X_ihm_1_11 a_xp1 a_xn1 wp_ih_1_11 wn_ih_1_11 mhp11 mhn11 vdd vbsyn gsyn
X_ihx_1_11 a_xp1 a_xn1 wp_ih_1_11 wn_ih_1_11 xhp11 xhn11 vdd vbsyn gsyn
Xn11 xhp11 xhn11 ahp11 ahn11 vdd vbneu dneuron
Xeh11 xhp11 xhn11 mhp11 mhn11 ehp11 ehn11 vdd gm esub
Xcm_mh12 mhp12 mhn12 vdd cmld
Rnd_mh12 mhp12 mhn12 20k
Xcm_xh12 xhp12 xhn12 vdd cmld
Rnd_xh12 xhp12 xhn12 20k
X_ihm_0_12 a_xp0 a_xn0 wp_ih_0_12 wn_ih_0_12 mhp12 mhn12 vdd vbsyn gsyn
X_ihx_0_12 a_xp0 a_xn0 wp_ih_0_12 wn_ih_0_12 xhp12 xhn12 vdd vbsyn gsyn
X_ihm_1_12 a_xp1 a_xn1 wp_ih_1_12 wn_ih_1_12 mhp12 mhn12 vdd vbsyn gsyn
X_ihx_1_12 a_xp1 a_xn1 wp_ih_1_12 wn_ih_1_12 xhp12 xhn12 vdd vbsyn gsyn
Xn12 xhp12 xhn12 ahp12 ahn12 vdd vbneu dneuron
Xeh12 xhp12 xhn12 mhp12 mhn12 ehp12 ehn12 vdd gm esub
Xcm_mh13 mhp13 mhn13 vdd cmld
Rnd_mh13 mhp13 mhn13 20k
Xcm_xh13 xhp13 xhn13 vdd cmld
Rnd_xh13 xhp13 xhn13 20k
X_ihm_0_13 a_xp0 a_xn0 wp_ih_0_13 wn_ih_0_13 mhp13 mhn13 vdd vbsyn gsyn
X_ihx_0_13 a_xp0 a_xn0 wp_ih_0_13 wn_ih_0_13 xhp13 xhn13 vdd vbsyn gsyn
X_ihm_1_13 a_xp1 a_xn1 wp_ih_1_13 wn_ih_1_13 mhp13 mhn13 vdd vbsyn gsyn
X_ihx_1_13 a_xp1 a_xn1 wp_ih_1_13 wn_ih_1_13 xhp13 xhn13 vdd vbsyn gsyn
Xn13 xhp13 xhn13 ahp13 ahn13 vdd vbneu dneuron
Xeh13 xhp13 xhn13 mhp13 mhn13 ehp13 ehn13 vdd gm esub
Xcm_mh14 mhp14 mhn14 vdd cmld
Rnd_mh14 mhp14 mhn14 20k
Xcm_xh14 xhp14 xhn14 vdd cmld
Rnd_xh14 xhp14 xhn14 20k
X_ihm_0_14 a_xp0 a_xn0 wp_ih_0_14 wn_ih_0_14 mhp14 mhn14 vdd vbsyn gsyn
X_ihx_0_14 a_xp0 a_xn0 wp_ih_0_14 wn_ih_0_14 xhp14 xhn14 vdd vbsyn gsyn
X_ihm_1_14 a_xp1 a_xn1 wp_ih_1_14 wn_ih_1_14 mhp14 mhn14 vdd vbsyn gsyn
X_ihx_1_14 a_xp1 a_xn1 wp_ih_1_14 wn_ih_1_14 xhp14 xhn14 vdd vbsyn gsyn
Xn14 xhp14 xhn14 ahp14 ahn14 vdd vbneu dneuron
Xeh14 xhp14 xhn14 mhp14 mhn14 ehp14 ehn14 vdd gm esub
Xcm_mh15 mhp15 mhn15 vdd cmld
Rnd_mh15 mhp15 mhn15 20k
Xcm_xh15 xhp15 xhn15 vdd cmld
Rnd_xh15 xhp15 xhn15 20k
X_ihm_0_15 a_xp0 a_xn0 wp_ih_0_15 wn_ih_0_15 mhp15 mhn15 vdd vbsyn gsyn
X_ihx_0_15 a_xp0 a_xn0 wp_ih_0_15 wn_ih_0_15 xhp15 xhn15 vdd vbsyn gsyn
X_ihm_1_15 a_xp1 a_xn1 wp_ih_1_15 wn_ih_1_15 mhp15 mhn15 vdd vbsyn gsyn
X_ihx_1_15 a_xp1 a_xn1 wp_ih_1_15 wn_ih_1_15 xhp15 xhn15 vdd vbsyn gsyn
Xn15 xhp15 xhn15 ahp15 ahn15 vdd vbneu dneuron
Xeh15 xhp15 xhn15 mhp15 mhn15 ehp15 ehn15 vdd gm esub
Xcm_mo0 mop0 mon0 vdd cmld
Rnd_mo0 mop0 mon0 20k
X_ho_0_0 ahp0 ahn0 wp_ho_0_0 wn_ho_0_0 mop0 mon0 vdd vbsyn gsyn
X_ho_1_0 ahp1 ahn1 wp_ho_1_0 wn_ho_1_0 mop0 mon0 vdd vbsyn gsyn
X_ho_2_0 ahp2 ahn2 wp_ho_2_0 wn_ho_2_0 mop0 mon0 vdd vbsyn gsyn
X_ho_3_0 ahp3 ahn3 wp_ho_3_0 wn_ho_3_0 mop0 mon0 vdd vbsyn gsyn
X_ho_4_0 ahp4 ahn4 wp_ho_4_0 wn_ho_4_0 mop0 mon0 vdd vbsyn gsyn
X_ho_5_0 ahp5 ahn5 wp_ho_5_0 wn_ho_5_0 mop0 mon0 vdd vbsyn gsyn
X_ho_6_0 ahp6 ahn6 wp_ho_6_0 wn_ho_6_0 mop0 mon0 vdd vbsyn gsyn
X_ho_7_0 ahp7 ahn7 wp_ho_7_0 wn_ho_7_0 mop0 mon0 vdd vbsyn gsyn
X_ho_8_0 ahp8 ahn8 wp_ho_8_0 wn_ho_8_0 mop0 mon0 vdd vbsyn gsyn
X_ho_9_0 ahp9 ahn9 wp_ho_9_0 wn_ho_9_0 mop0 mon0 vdd vbsyn gsyn
X_ho_10_0 ahp10 ahn10 wp_ho_10_0 wn_ho_10_0 mop0 mon0 vdd vbsyn gsyn
X_ho_11_0 ahp11 ahn11 wp_ho_11_0 wn_ho_11_0 mop0 mon0 vdd vbsyn gsyn
X_ho_12_0 ahp12 ahn12 wp_ho_12_0 wn_ho_12_0 mop0 mon0 vdd vbsyn gsyn
X_ho_13_0 ahp13 ahn13 wp_ho_13_0 wn_ho_13_0 mop0 mon0 vdd vbsyn gsyn
X_ho_14_0 ahp14 ahn14 wp_ho_14_0 wn_ho_14_0 mop0 mon0 vdd vbsyn gsyn
X_ho_15_0 ahp15 ahn15 wp_ho_15_0 wn_ho_15_0 mop0 mon0 vdd vbsyn gsyn
Xcm_mo1 mop1 mon1 vdd cmld
Rnd_mo1 mop1 mon1 20k
X_ho_0_1 ahp0 ahn0 wp_ho_0_1 wn_ho_0_1 mop1 mon1 vdd vbsyn gsyn
X_ho_1_1 ahp1 ahn1 wp_ho_1_1 wn_ho_1_1 mop1 mon1 vdd vbsyn gsyn
X_ho_2_1 ahp2 ahn2 wp_ho_2_1 wn_ho_2_1 mop1 mon1 vdd vbsyn gsyn
X_ho_3_1 ahp3 ahn3 wp_ho_3_1 wn_ho_3_1 mop1 mon1 vdd vbsyn gsyn
X_ho_4_1 ahp4 ahn4 wp_ho_4_1 wn_ho_4_1 mop1 mon1 vdd vbsyn gsyn
X_ho_5_1 ahp5 ahn5 wp_ho_5_1 wn_ho_5_1 mop1 mon1 vdd vbsyn gsyn
X_ho_6_1 ahp6 ahn6 wp_ho_6_1 wn_ho_6_1 mop1 mon1 vdd vbsyn gsyn
X_ho_7_1 ahp7 ahn7 wp_ho_7_1 wn_ho_7_1 mop1 mon1 vdd vbsyn gsyn
X_ho_8_1 ahp8 ahn8 wp_ho_8_1 wn_ho_8_1 mop1 mon1 vdd vbsyn gsyn
X_ho_9_1 ahp9 ahn9 wp_ho_9_1 wn_ho_9_1 mop1 mon1 vdd vbsyn gsyn
X_ho_10_1 ahp10 ahn10 wp_ho_10_1 wn_ho_10_1 mop1 mon1 vdd vbsyn gsyn
X_ho_11_1 ahp11 ahn11 wp_ho_11_1 wn_ho_11_1 mop1 mon1 vdd vbsyn gsyn
X_ho_12_1 ahp12 ahn12 wp_ho_12_1 wn_ho_12_1 mop1 mon1 vdd vbsyn gsyn
X_ho_13_1 ahp13 ahn13 wp_ho_13_1 wn_ho_13_1 mop1 mon1 vdd vbsyn gsyn
X_ho_14_1 ahp14 ahn14 wp_ho_14_1 wn_ho_14_1 mop1 mon1 vdd vbsyn gsyn
X_ho_15_1 ahp15 ahn15 wp_ho_15_1 wn_ho_15_1 mop1 mon1 vdd vbsyn gsyn
Xcm_mo2 mop2 mon2 vdd cmld
Rnd_mo2 mop2 mon2 20k
X_ho_0_2 ahp0 ahn0 wp_ho_0_2 wn_ho_0_2 mop2 mon2 vdd vbsyn gsyn
X_ho_1_2 ahp1 ahn1 wp_ho_1_2 wn_ho_1_2 mop2 mon2 vdd vbsyn gsyn
X_ho_2_2 ahp2 ahn2 wp_ho_2_2 wn_ho_2_2 mop2 mon2 vdd vbsyn gsyn
X_ho_3_2 ahp3 ahn3 wp_ho_3_2 wn_ho_3_2 mop2 mon2 vdd vbsyn gsyn
X_ho_4_2 ahp4 ahn4 wp_ho_4_2 wn_ho_4_2 mop2 mon2 vdd vbsyn gsyn
X_ho_5_2 ahp5 ahn5 wp_ho_5_2 wn_ho_5_2 mop2 mon2 vdd vbsyn gsyn
X_ho_6_2 ahp6 ahn6 wp_ho_6_2 wn_ho_6_2 mop2 mon2 vdd vbsyn gsyn
X_ho_7_2 ahp7 ahn7 wp_ho_7_2 wn_ho_7_2 mop2 mon2 vdd vbsyn gsyn
X_ho_8_2 ahp8 ahn8 wp_ho_8_2 wn_ho_8_2 mop2 mon2 vdd vbsyn gsyn
X_ho_9_2 ahp9 ahn9 wp_ho_9_2 wn_ho_9_2 mop2 mon2 vdd vbsyn gsyn
X_ho_10_2 ahp10 ahn10 wp_ho_10_2 wn_ho_10_2 mop2 mon2 vdd vbsyn gsyn
X_ho_11_2 ahp11 ahn11 wp_ho_11_2 wn_ho_11_2 mop2 mon2 vdd vbsyn gsyn
X_ho_12_2 ahp12 ahn12 wp_ho_12_2 wn_ho_12_2 mop2 mon2 vdd vbsyn gsyn
X_ho_13_2 ahp13 ahn13 wp_ho_13_2 wn_ho_13_2 mop2 mon2 vdd vbsyn gsyn
X_ho_14_2 ahp14 ahn14 wp_ho_14_2 wn_ho_14_2 mop2 mon2 vdd vbsyn gsyn
X_ho_15_2 ahp15 ahn15 wp_ho_15_2 wn_ho_15_2 mop2 mon2 vdd vbsyn gsyn
Xcm_mo3 mop3 mon3 vdd cmld
Rnd_mo3 mop3 mon3 20k
X_ho_0_3 ahp0 ahn0 wp_ho_0_3 wn_ho_0_3 mop3 mon3 vdd vbsyn gsyn
X_ho_1_3 ahp1 ahn1 wp_ho_1_3 wn_ho_1_3 mop3 mon3 vdd vbsyn gsyn
X_ho_2_3 ahp2 ahn2 wp_ho_2_3 wn_ho_2_3 mop3 mon3 vdd vbsyn gsyn
X_ho_3_3 ahp3 ahn3 wp_ho_3_3 wn_ho_3_3 mop3 mon3 vdd vbsyn gsyn
X_ho_4_3 ahp4 ahn4 wp_ho_4_3 wn_ho_4_3 mop3 mon3 vdd vbsyn gsyn
X_ho_5_3 ahp5 ahn5 wp_ho_5_3 wn_ho_5_3 mop3 mon3 vdd vbsyn gsyn
X_ho_6_3 ahp6 ahn6 wp_ho_6_3 wn_ho_6_3 mop3 mon3 vdd vbsyn gsyn
X_ho_7_3 ahp7 ahn7 wp_ho_7_3 wn_ho_7_3 mop3 mon3 vdd vbsyn gsyn
X_ho_8_3 ahp8 ahn8 wp_ho_8_3 wn_ho_8_3 mop3 mon3 vdd vbsyn gsyn
X_ho_9_3 ahp9 ahn9 wp_ho_9_3 wn_ho_9_3 mop3 mon3 vdd vbsyn gsyn
X_ho_10_3 ahp10 ahn10 wp_ho_10_3 wn_ho_10_3 mop3 mon3 vdd vbsyn gsyn
X_ho_11_3 ahp11 ahn11 wp_ho_11_3 wn_ho_11_3 mop3 mon3 vdd vbsyn gsyn
X_ho_12_3 ahp12 ahn12 wp_ho_12_3 wn_ho_12_3 mop3 mon3 vdd vbsyn gsyn
X_ho_13_3 ahp13 ahn13 wp_ho_13_3 wn_ho_13_3 mop3 mon3 vdd vbsyn gsyn
X_ho_14_3 ahp14 ahn14 wp_ho_14_3 wn_ho_14_3 mop3 mon3 vdd vbsyn gsyn
X_ho_15_3 ahp15 ahn15 wp_ho_15_3 wn_ho_15_3 mop3 mon3 vdd vbsyn gsyn
.options gmin=1e-12 reltol=1e-3 itl1=500 rshunt=1e9 
.end
